US05635477
t-Butyloxycarbonyl-4-chloro-3-aminomethylbenzoic Acid
A suspension of 4-chloro-3-aminomethylbenzoic acid.HCl (6.7 g, 30 mmol) and triethylamine (9.3 g, 92 mmol) in 50 ml of H2O, was added to a solution of Boc-ON (9.2 g, 38 mmol) in 50 ml of tetrahydrofuran cooled to 0° C. The reaction mixture was stirred at room temperature overnight, and the volatile compounds were removed by concentration under reduced pressure. The residue was diluted with H2O, washed with ether, acidified to pH 3 with 1N HCl, and extracted with ethyl acetate. The extracts were washed with H2O, brine, dried over anhydrous magnesium sulfate, and evaporated to dryness under reduced pressure. This material was triturated with ether-hexane to provide the title compound (7.4 g, 87%) as a white powder. mp 159° C. (dec);

reactant | 4-chloro-3-aminomethylbenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)CN | C8H8ClNO2
reactant | HCl | 30 mmol, 6.7 g | Cl | ClH
reactant | triethylamine | 92 mmol, 9.3 g | C(C)N(CC)CC | C6H15N
reactant | Boc-ON | 38 mmol, 9.2 g | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | H2O | 50 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | t-Butyloxycarbonyl-4-chloro-3-aminomethylbenzoic Acid | 7.4 g, 87% | C(C)(C)(C)OC(=O)C1=C(C(=O)O)C=CC(=C1CN)Cl | C13H16ClNO4
